US09302120B2
To a suspension of 496 mg (1.61 mmol) of (E)-6-chloro-3-(3-chloro-2-fluorobenzylidene)indolin-2-one in toluene under argon, were added 408 mg (1.61 mmol) of (5S,6R)-5,6-diphenylmorpholin-2-one and 213 μL (1.61 mmol) of 3,3-dimethyl-butyraldehyde. The reaction mixture was heated at reflux temperature for 6 hours, upon which it was cooled down to room temperature and concentrated to dryness under reduced pressure. The residue was purified by flash chromatography on a 70 g silica cartridge (15-40 μm silica gel; eluting solvent: cyclohexane/ethyl acetate 90/10 v/v; flow: 50 mL/min). 0.58 g of (3R,3′R,4′S,6′S,8′R,8a′S)-6-chloro-8′-(3-chloro-2-fluorophenyl)-6′-neopentyl-3′,4′-diphenyl 3′,4′,8′,8a′-tetrahydrospiro[indoline-3,7′-pyrrolo[2,1-c][1,4]oxazine]-1′,2(6′H)-dione was obtained as an amorphous yellow solid. LC-MS: tR (min)=1.81; [M+H]+: m/z 643; [M−H]−: m/z 641 (WATERS UPLC-SQD apparatus; Ionization: electrospray in positive mode and/or negative mode (ES+/−); Chromatographic conditions: Column: ACQUITY BEH C18 1.7 μm-2.1×50 mm; Solvents: A: H2O (0.1% formic acid) B: CH3CN (0.1% formic acid); Column temperature: 50° C.; Flow: 0.8 ml/min; Gradient (2.5 min): from 5 to 100% of B in 1.8 min; 2.4 min: 100% of B; 2.45 min: 100% of B; from 100 to 5% of B in 0.05 min; Retention time=tR (min); referred to herein as “Method C”); 1H NMR (400 MHz, DMSO-d6): 0.39 (s, 9H); 1.30 (dd, J=4.0 and 15.2 Hz, 1H); 1.93 (dd, J=6.3 and 15.2 Hz, 1H); 3.49 (dd, J=4.0 and 6.3 Hz, 1H); 4.47 (d, J=11.2 Hz, 1H); 5.04 (d, J=4.2 Hz, 1H); 5.08 (d, J=11.2 Hz, 1H); 6.53 (d, J=8.1 Hz, 1H); 6.66 to 6.76 (m, 3H); 6.96 (m, 2H); 7.10 to 7.26 (m, 9H); 7.34 (t broad, J=7.9 Hz, 1H); 7.62 (t broad, J=7.9 Hz, 1H); 10.71 (s broad, 1H).

reactant | (E)-6-chloro-3-(3-chloro-2-fluorobenzylidene)indolin-2-one | 1.61 mmol, 496 mg | ClC1=CC=C2\C(\C(NC2=C1)=O)=C/C1=C(C(=CC=C1)Cl)F | C15H8Cl2FNO
reactant | (5S,6R)-5,6-diphenylmorpholin-2-one | 1.61 mmol, 408 mg | C1(=CC=CC=C1)[C@H]1[C@H](OC(CN1)=O)C1=CC=CC=C1 | C16H15NO2
reactant | 3,3-dimethyl-butyraldehyde | 1.61 mmol, 213 μL | CC(CC=O)(C)C | C6H12O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (3R,3′R,4′S,6′S,8′R,8a′S)-6-chloro-8′-(3-chloro-2-fluorophenyl)-6′-neopentyl-3′,4′-diphenyl 3′,4′,8′,8a′-tetrahydrospiro[indoline-3,7′-pyrrolo[2,1-c][1,4]oxazine]-1′,2(6′H)-dione | 0.58 g | ClC1=CC=C2C(=C1)NC([C@]21[C@@H]([C@H]2C(O[C@@H]([C@@H](N2[C@H]1CC(C)(C)C)C1=CC=CC=C1)C1=CC=CC=C1)=O)C1=C(C(=CC=C1)Cl)F)=O | C37H33Cl2FN2O3
